US07872023B2
6-Methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid ethyl ester.
NaH (3.4 g, 60% in mineral oil, 83.3 mmol) was washed with hexanes (3×70 mL) and THF (1×30 mL) in an oven dried 3 neck round-bottomed flask. Diethyl carbonate (5.5 mL, 45.4 mmol) was added to the NaH/THF suspension in anhydrous THF (20 mL) and the slurry was heated at reflux under N2. 6-Methoxy-1-tetralone (4 g, 22.7 mmol) in THF (40 mL) was added dropwise via an addition funnel to the suspension at reflux. The reaction mixture was then heated at reflux for 2 days. The solution was cooled to room temperature and glacial AcOH (3.6 mL) was added in a dropwise manner. Et2O (150 mL) was then added and the organic layer was washed with saturated NaCl solution (5×25 mL), dried (MgSO4), and concentrated under reduced pressure to provide a crude brown oil (6.0 g). The oil was subjected to medium pressure chromatography on silica (CHCl3) to provide a dark oil which solidified upon standing (5.17 g, 91.8% yield). The solid was recrystallized from EtOAc/hexane to provide a white solid. mp 58-60° C. 1H-NMR (300 MHz, CDCl3) δ 1.27-1.36 (t, 3H), 2.20-3.56 (m, 5H), 3.85 (s, 3H), 4.23-4.28 (m, 2H), 6.70 (s, 1H), 6.77-6.85 (d, 1H), 7.72-8.03 (d, 1H).

reactant | NaH | 83.3 mmol, 3.4 g | [H-].[Na+]
reactant | Diethyl carbonate | 45.4 mmol, 5.5 mL | C(OCC)(OCC)=O | C5H10O3
reactant | NaH THF | [H-].[Na+].C1CCOC1
reactant | 6-Methoxy-1-tetralone | 22.7 mmol, 4 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | AcOH | 3.6 mL | CC(=O)O | C2H4O2
product | 6-Methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid ethyl ester | 6.0 g, 91.8% yield | C(C)OC(=O)C1C(C2=CC=C(C=C2CC1)OC)=O | C14H16O4
